US04769378
5-chloro-5-phenyl-5H-indeno[1,2-d]pyrimidine
Five grams of 5-phenyl-5H-indeno[1,2-d]pyrimidin-5-ol were stirred at reflux temperature in 25 ml of thionyl chloride and 100 ml of benzene for 5 hours. The solvents were removed by evaporation and the residue was tritrated with benzene and filtered. The solid was crystallized from diethyl ether to provide 3 g of the desired title product, m.p. 119°-120° C.

reactant | 5-phenyl-5H-indeno[1,2-d]pyrimidin-5-ol | Five grams | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2N=CN=CC21)O | C17H12N2O
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-5-phenyl-5H-indeno[1,2-d]pyrimidine | 3 g | ClC1(C2=CC=CC=C2C=2N=CN=CC21)C2=CC=CC=C2 | C17H11ClN2
